US06028080
9 g of 3-hydroxyphenylmethyl)phenylacetonitrile are dissolved in 150 ml of toluene and treated with stirring with 5.8 ml (80 mmol) of thionyl chloride. The reaction mixture is heated to reflux temperature and stirred for one hour. In the course of this, approximately 50 ml of toluene are removed in a water separator. The solvent is removed and 3-(chlorophenyl-methyl)phenylacetonitrile is obtained.

reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | thionyl chloride | 80 mmol, 5.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(chlorophenyl-methyl)phenylacetonitrile | ClC(C=1C=C(C=CC1)CC#N)C1=CC=CC=C1 | C15H12ClN
